US07902226B2
2,3-dihydro-3-(S)-methyl-10-[3-(R)-[1-(methylamino)cyclopropyl]pyrrolidin-1-yl]-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid
After adding 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine (125 mg, 521 μmol) and triethylamine (0.50 ml) to dried dimethyl sulfoxide (1 ml), 10-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid (132 mg, 500 μmol) was added thereto and stirred while heating in an oil bath of 100° C. for 20 hours under a nitrogen atmosphere. After concentrating the reaction solution under a reduced pressure, the residue was dissolved in chloroform (100 ml). After washing the organic layer with a 10% aqueous citric acid solution (50 ml) and saturated saline solution (50 ml), the organic layer was dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, and after adding concentrated hydrochloric acid (3 ml) to the residue while cooling with ice, it was stirred at room temperature for 30 minutes. After adding water (3 ml) to the reaction solution and washing the yellow acidic aqueous solution with chloroform (50 ml×3), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extraction with chloroform (100 ml×3) was performed. After drying over anhydrous sodium sulfate, the solvent was evapolated under a reduced pressure. The residue thus obtained was then purified by recrystallization from ethanol-ammonia water and then dried under a reduced pressure. 135 mg (70%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine | 521 μmol, 125 mg | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CNCC1 | C13H24N2O2
reactant | triethylamine | 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 10-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 500 μmol, 132 mg | FC=1C=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O | C13H10FNO4
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 2,3-dihydro-3-(S)-methyl-10-[3-(R)-[1-(methylamino)cyclopropyl]pyrrolidin-1-yl]-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 135 mg, 70% | C[C@H]1COC=2C=3N1C=C(C(C3C=CC2N2C[C@@H](CC2)C2(CC2)NC)=O)C(=O)O | C21H25N3O4
